Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
stomach pain, vomiting 
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
___ hx unspecified psychotic disorder (schizophrenia vs. 
schizoaffective d/o), recent admission to ___ who presents with 
5 days of abdominal pain and vomiting. The patient reports that 
her last BM was 5 days ago. She also endorses intermittent 
sharp, nonpleuritic chest pain, without any symptoms currently.  


In the ED, initial VS were: T 99.6 HR 90 BP 126/64 R 20 100% RA  


Exam notable for RUQ tenderness to palpation and tenderness to 
the epigastrium, with voluntary guarding. Patient refused rectal 
exam.  

Labs showed:  
8.2 > 7.1/___.5 < 413 (last Hb at ___ 12.6 from ___  
Normal chemistry panel and LFTs, negative HCG, lactate 0.9.  
CTA chest/abd/pelvis was done, which showed no evidence of 
aortic dissection or cholecystits, multiple small bowel loops 
with fluid, and small amount of simple free pelvic fluid.  

RUQUS was negative for acute process.  
Patient received 1g IV Tylenol and 4 mg IV Zofran. Patient 
refused further lab draws for measuring serial CBCs.  

Psychiatry was consulted and determined that the patient did not 
have capacity to leave AMA, and pt was placed on ___. 
Risperidone and lorazepam PRN were started, and patient was 
admitted to the medicine service for further evaluation.   

Decision was made to admit to medicine for further management.  

On arrival to the floor, patient reports feeling annoyed with 
care staff, paranoid about blood drawn in blood culture tubes, 
refusing all care except 1 set of vitals. Notes blood 
transfusions is against her religious beliefs but not consistent 
about knowing and understanding the life-threatening risks. 
Psych team notes that the patient lacks capacity and will 
require ___ chemical restraints to obtain life-saving 
treatments. 

 
Past Medical History:
"Per Partners ___
Allergic rhinitis
Lower GI bleeding
Bipolar disorder/Schizoeffecctive disord
skin abscess right axilla
chronic fatigue
Atypical chest pain
Asthma
High WBC
Gastroesophageal reflux disease
Uterine fibroids : Last Pelvic U/S in ___, at ___
genital warts
candidal intertrigo : Lotrisone cream
right knee pain
Vitamin D deficiency
Obesity"

 
Social History:
COLLATERAL:
Per BEST Team (___):
-Patient was presented to the ___ ED on 
___ due to depression. During evaluation she appeared 
paranoid and denied SI/HI. During the ___ evaluation, the 
recommendation was for her to go to a CSU, but she ultimately 
eloped from the ED.
-She has a history of psychosis, bipolar disorder, unspecified 
mood disorder. Medication nonadherence and has no known current 
providers. 
-The patient has a history of using different aliases as a 
result of her paranoia. She is a ___ client (prior evaluations 
note providers, such as Dr. ___, at ___ 
___).
-Prior inpatient hospitalizations: ___ (___ after 
threatening mother with knife, claiming that others can hear her 
thoughts and predict them, stating that "sorcerers" are after 
her, in the ED she would sing Joy to the World loudly); ___ 
___ after threatening mother with a knife, claiming 
that "woman in the bed" was not really her mother, required
chemical restraints in the ED).

Contact information: None.

PAST PSYCHIATRIC HISTORY:
-On initial ED interview patient denies past psychiatric 
history. She states that others have diagnosed her with various 
psychiatric illnesses but that these providers misdiagnosed her 
due to their own mental illnesses.
-BEST collateral as above.
-Per initial ED consult note written by Dr. ___
(dated ___:
"-Past psychiatric hospitalizations: h/o mania in ___; 5 
hospitalizations for AH/paranoia between age ___
-Most recent psychiatric hospitalization: most recent 
hospitalization ___ at ___
-History of SA/SIB: None
-Violence toward others: in ___, punched then boyfriend's 
ex-girlfriend when ex-girlfriend came to their house with then 
bf and asked her to leave the house; h/o requiring many police 
or security guards for restraint when acutely agitated; was 
physically intimidating to outpatient psychiatrist. Has hx
threatening mother with knife. 
-Medication trials/somatic treatments: h/o being stable on 
Abilify for years before self-dc'ing in the last few months and 
decompensating
-Psychiatrist: Dr. ___, ___ (pt reports she has not 
seen a psychiatrist in over a year)"
 
Family History:
Denied
 
Physical Exam:
ON ADMISSION: 
 VS:  98.5 113 / 66 103 18 99 RA 
 GENERAL: NAD  
 refusing physical exam

ON DISCHARGE: 
VS:98.3 90-100/50-60 ___ 18 90-100 r.a.
refusing physical exam

 
Pertinent Results:
LABS: 
___ 10:35AM BLOOD WBC-6.7 RBC-3.39* Hgb-7.7* Hct-26.2* 
MCV-77* MCH-22.7* MCHC-29.4* RDW-19.2* RDWSD-53.9* Plt ___
___ 10:35AM BLOOD Glucose-86 UreaN-7 Creat-0.7 Na-136 K-4.4 
Cl-103 HCO3-23 AnGap-14
___ 08:53PM BLOOD ALT-11 AST-14 LD(LDH)-191 AlkPhos-71 
TotBili-0.2
___ 08:53PM BLOOD HCG-<5
___ 11:28PM BLOOD Lactate-0.9
___ 08:53PM BLOOD WBC-8.2 RBC-3.03*# Hgb-7.1*# Hct-23.5*# 
MCV-78*# MCH-23.4*# MCHC-30.2* RDW-18.2* RDWSD-51.1* Plt 
___.

MICRO: 
Blood Culture, Routine (Final ___:    NO GROWTH. 

IMAGING: 

___ CTA Torso
 
No evidence of aortic dissection or other acute aortic 
abnormality.  The main pulmonary artery is well opacified, 
without central pulmonary filling defect to suggest pulmonary 
embolism.  The left hepatic artery arises from the left gastric 
artery (3:68). 
  
CHEST: 
  
NECK, THORACIC INLET, AXILLAE:  Imaged thyroid is unremarkable.  
Residual thymic tissue is present.  Supraclavicular and axillary 
lymph nodes are not enlarged by CT size criteria.   
MEDIASTINUM: Mediastinal lymph nodes are not pathologically 
enlarged. 
HILA: Hilar lymph nodes are not pathologically enlarged. 
HEART and PERICARDIUM:  Heart size is normal with no coronary 
artery calcifications. There is no pericardial effusion. 
PLEURA: There is no pleural effusion or pneumothorax. 
LUNGS/AIRWAYS:  The airways are patent to the subsegmental 
level. There is no focal consolidation.  Mosaic attenuation of 
the lung parenchyma is likely due to partial expiratory phase of 
imaging.  Bibasilar atelectasis is mild. 
  
ABDOMEN: 
HEPATOBILIARY: The liver demonstrates homogenous attenuation 
throughout. There  is no evidence of focal lesions. There is no 
evidence of intrahepatic or extrahepatic biliary dilatation.  
The gallbladder is within normal limits, without stones or 
gallbladder wall thickening.  There is trace perihepatic fluid.  
 
PANCREAS: The pancreas has normal attenuation throughout, 
without evidence of focal lesions or pancreatic ductal 
dilatation. There is no peripancreatic stranding.   
SPLEEN: The spleen shows normal size and attenuation throughout, 
without 
evidence of focal lesions.   
ADRENALS: The right and left adrenal glands are normal in size 
and shape.  
URINARY: The left kidney is slightly smaller than the right.  
There is no evidence of stones, focal renal lesions, or 
hydronephrosis. There are no urothelial lesions in the kidneys 
or ureters. There is no perinephric 
abnormality.   
GASTROINTESTINAL: Small bowel loops demonstrate normal caliber, 
wall thickness and enhancement throughout.  However, multiple 
loops of small bowel are filled with fluid.  Colon and rectum 
are within normal limits.  The appendix is not directly 
visualized.  There is no evidence of mesenteric lymphadenopathy. 
  
RETROPERITONEUM: There is no evidence of retroperitoneal 
lymphadenopathy.   
PELVIS: The urinary bladder and distal ureters are unremarkable. 
 There is no evidence of pelvic or inguinal lymphadenopathy.  
There is a small amount of simple free fluid in the pelvis. 
REPRODUCTIVE ORGANS: The uterus is unremarkable. 
BONES: There is no evidence of worrisome osseous lesions or 
acute fracture.  Mild degenerative changes of the thoracolumbar 
spine.   
SOFT TISSUES: The abdominal and pelvic wall is within normal 
limits. 
  
IMPRESSION:   
1.  No evidence of aortic dissection. 
2.  No evidence of cholecystitis. 
3.  Multiple normal caliber small bowel loops are filled with 
fluid. Findings can be seen in enteritis, but correlation with 
clinical symptoms is recommended.  
4.  Small amount of simple free pelvic fluid. 

___ CXR 
Heart size is mildly enlarged.  The mediastinal and hilar 
contours are normal. Pulmonary vasculature is normal.  Mild 
atelectasis is noted in the lung bases without focal 
consolidation.  No pleural effusion or pneumothorax is 
identified.  There is no acute osseous abnormalities.  No 
subdiaphragmatic free air is visualized. 

___ EKG 
Sinus rhythm. Borderline atrio-ventricular conduction delay. 
Early R wave  transition. Compared to the previous tracing of 
___ atrial ectopy is no longer appreciated and the 
ventricular rate is faster. 

Rate PR  QRS QT QTc      P QRS T 
64   196 83  ___ 36 31 37
 
Brief Hospital Course:
Ms. ___ ___ yo F pmh schizoaffective disorder, LBIG ___ 
external hemorrhoids s/p colonoscopy ___ presented to ___ ED 
on ___ after walking from ___ ED. She states that she 
initially went to ___ ED for repeated episodes of vomiting 
with reported mixture of blood. Upon arrival to the ___ ED 
per records she  denied hematochezia, melena, menorrhagia or 
hematuria.  She had non-focal neurologic exam. She was afebrile 
with temp 98.6F, HR 81 BP 118/48 normal resp on room air. Labs 
from the ___ on ___ were remarkable for hgb 6.8 plt 393 
WBC 8 with BUN 6 CR 0.7. 

She then walked over to ___ ED On ___, she reported a 
consistent story of nausea/vomiting for several day and slipping 
down steps, she stated that she was homeless and eating whatever 
she was able to find for the few days prior to admission. On 
exam she was A&O3X with disorganized thoughts, paranoid 
delusions. She did initially comply with medical care. In the ED 
at ___, patient was relatively compliant with medical care, 
she underwent CTA to investigate a source of bleed. CTA was 
negative for PE with no evidence of bleed and demonstrated 
normal liver, no cholelithasis, normal pancereas, kidneys and 
mild enteritis. RUQ US was negative, no evidence of acute 
cholecystitis. EKG with normal sinus rhythm, normal axis, normal 
intervals no ST changes. 

# Schizoaffective disorder/psychosis: disorder thoughts, 
paranoid delusions, psych was consulted. Per psych assessment, 
"her responses when she initially presented are concerning for 
paranoia/persecutory ideation and delusions. I cannot completely 
exclude that her additional complaints (e.g. "burning eyes", 
light sensitivity) are somatic delusions. She has a history 
significant for paranoia and persecutory delusions, 
medication/treatment non adherence, and impaired ability to care 
for self in the community. She has no established treatment at 
this time, unstable housing, no reliable supports, unable to 
engage in safety planning and appears paranoid, she currently 
requires inpatient psychiatric hospitalization for diagnostic 
clarification, medication initiation, referral to outpatient 
treaters and dispo planning". She refused all medications while 
inpatient. She was placed at ___ for further 
psychiatry care given her medical stability. 

# Anemia: during admission, hgb remained low but stable at ___ 
with MCV 70's with ferritin of 8 consistent with anemia of 
chronic disease. Tbili and LDH were within normal limits 
therefore unlikely hemolysis. Digital rectal was hemoccult 
negative. No vaginal bleeding, no reported hematuria. Patient 
remained hemodynamically stable with no evidence of bleed during 
admission She will requiring ongoing evaluation of her anemia 
once she has stabilized from a psychiatric perspective.

======================
Transitional Issues: 
======================
- patient did not take any medicaitons while inpatient 
- Once stable from psych stand point will need further work up 
for anemia including primary care physician and GI follow up 

# Full code 
# No contact information available
 
Medications on Admission:
none
 
Discharge Medications:
1.  Benztropine Mesylate 1 mg IM ONCE:PRN chemical restraints  
2.  Benztropine Mesylate 1 mg PO ONCE:PRN chemical restraints  
3.  Haloperidol 5 mg IM ONCE:PRN chemical resistrants  Duration: 
1 Dose  
4.  Haloperidol 5 mg PO ONCE:PRN chemical restraints  
5.  LORazepam 2 mg IV ONCE:PRN chemical restraints  
6.  LORazepam 2 mg PO ONCE:PRN chemical restraints  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Gastroenteritis 
Iron deficient Anemia 
Schizoaffective disorder 

 
Discharge Condition:
Mental Status: Clear and coherent.
Activity Status: Ambulatory - Independent.
Psychosis, on ___. 

 
Discharge Instructions:
Dear ___, 

You were admitted to ___ for concern for you health. We have 
found a facility for you to be treated to help improve you 
health in the future. 

We hope the best for your well being. 
___ care team 
 
Followup Instructions:
___